US08071584B2
5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-6-fluoro-1H-indole-7-carboxamide
An aqueous solution of 0.0004 M Na2EDTA (0.882 mL, 0.353 μmol) was added to a solution of 5-Bromo-6-fluoro-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (45 mg, 0.126 mmol) in DME (3 mL). In a separate flask, NaHCO3 (106 mg, 1.260 mmol) was added to a solution of Oxone (232 mg, 0.378 mmol) in water (1 mL). This mixture was then added in 3 portions over 3 min to the DME solution of 5-Bromo-6-fluoro-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide. The reaction was stirred at room temperature for 17 h. Water (2 mL) and DCM (3 mL) were added, the layers were separated, and the aqueous layer was extracted with DCM (3×2 mL). The combined organic layers were washed with saturated NaCl (1×2 mL), dried (Na2SO4), filtered, and concentrated under a stream of nitrogen at 50° C. The residue was dried under high vacuum, giving 9.2 mg (19%) of the title compound.

reactant | 5-Bromo-6-fluoro-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.126 mmol, 45 mg | BrC=1C=C2C(=CNC2=C(C1F)C(=O)N)C1CCSCC1 | C14H14BrFN2OS
reactant | NaHCO3 | 1.260 mmol, 106 mg | C(=O)(O)[O-].[Na+]
reactant | Oxone | 0.378 mmol, 232 mg | OOS(=O)[O-].[K+]
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | Na2EDTA | 0.353 μmol, 0.0004 M, 0.882 mL | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
solvent | Water | 2 mL | O | H2O
product | 5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-6-fluoro-1H-indole-7-carboxamide | 9.2 mg, 19% | BrC=1C=C2C(=CNC2=C(C1F)C(=O)N)C1CCS(CC1)(=O)=O | C14H14BrFN2O3S
